US06268444B1
Preparation of N-methyl-N-phenyl-1H-inden-3-amine, (69).
Into a dry flask equipped with a Dean-Stark trap and a reflux condenser were placed 1-indanone (10.0 g, 75.7 mmol). N-methylaniline (15.1 g, 141 mmol) and toluene (200 mL). A catalytic amount of p-toluenesulfonic acid (0.1 g) was added and the mixture was refluxed under N2 for 96 hours. The reaction was cooled and the toluene was removed under reduced pressure before the remaining material was distilled under vacuum. The highest boiling fraction (6.8 g; bp 150-2° C./0.7 mm Hg) was collected as a yellow oil which solidified to a yellow-orange solid on standing. This material was stored in a glove box. Analysis by NMR indicated ca. 10 percent N-methylaniline in the product. However, further distillation on another sample of distilled enamine was not successful in lowering the amount of unwanted amine in the product.

reactant | 1-indanone | 75.7 mmol, 10.0 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | N-methylaniline | 141 mmol, 15.1 g | CNC1=CC=CC=C1 | C7H9N
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N-phenyl-1H-inden-3-amine | CN(C1=CCC2=CC=CC=C12)C1=CC=CC=C1 | C16H15N
